US04287338
A mixture of 1.00 grams of 2,4-diamino-6-(4-methyl-1-piperazinyl)pyrimidine-3-oxide, 1.50 grams of chlorosulfonic acid, and 2.5 grams of di-isopropylethylamine in 25 ml of chloroform is stirred overnight. The mixture is concentrated in vacuo. The residue is stirred with aqueous sodium bicarbonate, filtered and washed with ether to give the crude product. This is recrystallized from DMF and ethyl acetate to yield the purified 2,6-diamino-4-(4-methyl-1-piperazinyl)-1-(sulfooxy)pyrimidinium hydroxide, inner salt.

reactant | 2,4-diamino-6-(4-methyl-1-piperazinyl)pyrimidine-3-oxide | 1.00 grams | NC1=NC(=CC(=[N+]1[O-])N)N1CCN(CC1)C | C9H16N6O
reactant | chlorosulfonic acid | 1.50 grams | ClS(=O)(=O)O | ClHO3S
reactant | di-isopropylethylamine | 2.5 grams | C(C)(C)N(CC)C(C)C | C8H19N
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,6-diamino-4-(4-methyl-1-piperazinyl)-1-(sulfooxy)pyrimidinium hydroxide | [OH-].NC1=[N+](C(=CC(=N1)N1CCN(CC1)C)N)OS(=O)(=O)O | InChI=1S/C9H16N6O4S.H2O/c1-13-2-4-14(5-3-13)8-6-7(10)15(9(11)12-8)19-20(16,17)18;/h6H,2-5H2,1H3,(H4,10,11,12,16,17,18);1H2
